US04480118
Synthesis of methyl 2-allyl-5-chloroindane-2-carboxylate
To 50 ml of anhydrous tetrahydrofuran (THF), was added 4.37 g of diisopropylamine. To the mixture was added 29 ml of a hexane solution of n-butyllithium at -60° to -50° C. under a nitrogen stream. To the resulting solution, was added a solution of 7.0 g of methyl 5-chloroindane-2-carboxylate in 10 ml of anhydrous THF at -70° to -60° C. over a period of 10 minutes. After stirring for 30 minutes at the same temperature, a solution of 5.23 g of allyl bromide in 10 ml of anhydrous THF was added dropwise at -70° to -50° C. over a period of 10 minutes. The mixture was further stirred for 24 hours at room temperature to complete the reaction. The reaction mixture was poured into a mixture of 5% aqueous hydrochloric acid solution and ice, and mixed with ether. After the ether layer was separated, the aqueous layer was extracted twice with ether. The ether layers were combined, washed with saturated aqueous sodium hydrogencarbonate solution, then with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain 8.32 g of the intended product.

reactant | diisopropylamine | 4.37 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl 5-chloroindane-2-carboxylate | 7.0 g | ClC=1C=C2CC(CC2=CC1)C(=O)OC | C11H11ClO2
reactant | allyl bromide | 5.23 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | hexane | 29 ml | CCCCCC | C6H14
product | methyl 2-allyl-5-chloroindane-2-carboxylate | 8.32 g | C(C=C)C1(CC2=CC=C(C=C2C1)Cl)C(=O)OC | C14H15ClO2
